US05597820
A mixture of (R)-2-ethyl-4-(2-propyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-7-carboxylic acid (1.60 g) in thionyl chloride (30 ml) was stirred under reflux for 2 hours. Thionyl chloride was distilled off under reduced pressure to give (R)-2-ethyl-4-(2-propyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-7-carbonyl chloride (1.70 g).

reactant | (R)-2-ethyl-4-(2-propyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-7-carboxylic acid | 1.60 g | C(C)[C@H]1OC2=C(N(C1=O)C(C)C)C=CC(=C2)C(=O)O | C14H17NO4
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | (R)-2-ethyl-4-(2-propyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-7-carbonyl chloride | 1.70 g | C(C)[C@H]1OC2=C(N(C1=O)C(C)C)C=CC(=C2)C(=O)Cl | C14H16ClNO3
